US06906067B2
4-Hydroxy-2-methoxymethyl-pyrrolidine-1-carboxylic acid t-butyl ester
The 4-benzyloxy-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid t-butyl ester (234.14 mg, 0.65 mmol) was taken up in anhydrous THF under argon and cooled to 0° C. Super-Hydride (1.0M, 0.98 mmol, 0.98 mL) was added via a syringe over 10 min. The solution was stirred for 1 h at 0° C., the TLC indicated that no starting material remained. The reaction mixture was slowly poured into a 1N HCl solution and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with water and brine then dried over MgSO4. The solution was filtered and the solvent removed under reduced pressure. The product was isolated by flash chromatography. (4:1 hexane-ethyl acetate) Yield 168.57 mg. 1H NMR (CDCl3, 300 MHz): δ 1.22 (d, J=9.0 Hz, 3H), 1.44 (s, 9H), 1.65-1.77 (m, 1H), 2.13-2.24 (m, 1H), 3.45 (dd, J=7, 12 Hz, 1H), 3.61 (d, J=7 Hz, 1H), 3.94-4.04 (m, 1H), 4.50 (s, 2H), 7.27-7.39 (m, 5H).

reactant | 4-benzyloxy-2-methanesulfonyloxymethyl-pyrrolidine-1-carboxylic acid t-butyl ester | 0.65 mmol, 234.14 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)OCC1=CC=CC=C1)COS(=O)(=O)C | C18H27NO6S
reactant | Super-Hydride | 0.98 mmol, 1.0M, 0.98 mL | [Li+].[B-](CC)(CC)CC
reactant | HCl | 1N | Cl | ClH
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | THF | C1CCOC1 | C4H8O
product | 4-Hydroxy-2-methoxymethyl-pyrrolidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1)O)COC | C11H21NO4
